US07547716B2
(2) Preparation of 5-amino-N-(2-furanylmethyl)-1-naphthalenesulfonamide hydrochloride.
N-[5-[[(2-furanylmethyl)amino]sulfonyl]-1-naphthalenyl]acetamide (202 mg, 0.59 mmol) was suspended in a solution of sodium hydroxide (148 mg, 3.7 mmol) in 1-propanol (4 ml), and the mixture was refluxed for 5 hours. After the reaction mixture was concentrated, saturated brine was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and after the layer was dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (eluent: ethyl acetate) to give a brown oil. This oil was dissolved in 1-propanol (1 ml), 2N hydrochloric acid (0.4 ml) was added thereto, and the mixture was stirred at room temperature for 20 minutes. The precipitated crystal was filtered, washed with 1-propanol and diisopropyl ether, and dried under vacuum to give the title compound as an ash white crystal (135 mg, 67.8%).

reactant | N-[5-[[(2-furanylmethyl)amino]sulfonyl]-1-naphthalenyl]acetamide | 0.59 mmol, 202 mg | O1C(=CC=C1)CNS(=O)(=O)C1=C2C=CC=C(C2=CC=C1)NC(C)=O | C17H16N2O4S
reactant | sodium hydroxide | 3.7 mmol, 148 mg | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 0.4 ml | Cl | ClH
solvent | 1-propanol | 4 ml | C(CC)O | C3H8O
solvent | 1-propanol | 1 ml | C(CC)O | C3H8O
product | 5-amino-N-(2-furanylmethyl)-1-naphthalenesulfonamide hydrochloride | 135 mg, 67.8% | Cl.NC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCC=1OC=CC1 | InChI=1S/C15H14N2O3S.ClH/c16-14-7-1-6-13-12(14)5-2-8-15(13)21(18,19)17-10-11-4-3-9-20-11;/h1-9,17H,10,16H2;1H
